US07291617B2
0.25 g of 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperazinyl]propoxy}benzamidine was suspended in 5.0 ml of ethanol. 1.5 ml of a 2.0 mol/L hydrogen chloride ethanol solution was added to the suspension. Thereafter, 3.0 ml of water was added for dissolution. The solvent was then removed under a reduced pressure. Thereafter, the residue was filtrated with ethanol to obtain 0.25 g of 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperazinyl]propoxy}benzamidine hydrochloride.

reactant | 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperazinyl]propoxy}benzamidine | 0.25 g | NC(C1=CC=C(OCCCN2CCN(CC2)CCCOC2=CC=C(C(=N)N)C=C2)C=C1)=N | C24H34N6O2
reactant | hydrogen chloride ethanol | 2.0 mol/L | C(C)O.Cl
reactant | water | 3.0 ml | O | H2O
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperazinyl]propoxy}benzamidine hydrochloride | 0.25 g | Cl.NC(C1=CC=C(OCCCN2CCN(CC2)CCCOC2=CC=C(C(=N)N)C=C2)C=C1)=N | InChI=1S/C24H34N6O2.ClH/c25-23(26)19-3-7-21(8-4-19)31-17-1-11-29-13-15-30(16-14-29)12-2-18-32-22-9-5-20(6-10-22)24(27)28;/h3-10H,1-2,11-18H2,(H3,25,26)(H3,27,28);1H
